US04272437
t-Butyl-3-tosyloxypentanoate
A solution of t-butyl 3-hydroxypentanoate (5.22 g, 0.3 mol) in dry pyridine (10 ml) was treated with p-toluenesulfonyl chloride (6.3 g, 0.33 mol) dissolved in dry pyridine (15 ml). The resulting solution was stirred at room temperature for 24 h and poured into ice-water (300 ml). The oily layer was separated and dissolved in ether (140 ml). This solution was washed with water (3×150 ml) and dried over anhydrous MgSO4. Evaporation of the ether under reduced pressure gave an oil (7.75 g, 78.7%). ir (neat) νmax : 1725 (C=O of ester) and 1178 cm-1 (sulfonate); 1Hmr (CDCl3) δ: 0.80 (3H, t), 1.38-1.78 (2H, m), 1.42 (9H, s) 2.32-2.62 (2H, m), 2.38 (3H, s), 4.82 (H, m), 7.25 (2H, d) and 7.70 ppm (2H, d). Anal. calcd for C15H24O5S: C 56.94, H 7.65; found: C 58.39, H 7.54.

reactant | t-butyl 3-hydroxypentanoate | 0.3 mol, 5.22 g | OC(CC(=O)OC(C)(C)C)CC | C9H18O3
reactant | p-toluenesulfonyl chloride | 0.33 mol, 6.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | t-Butyl-3-tosyloxypentanoate | 7.75 g, 78.7% | C(C)(C)(C)OC(CC(CC)OS(=O)(=O)C1=CC=C(C)C=C1)=O | C16H24O5S
